US05102877
To a solution of (3R,4R)-4-acetoxy-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine (3.96 g) and triethylamine (2.03 ml) in dichloromethane (60 ml) was added dropwise trimethylsilyl trifluoromethanesulfonate (3.5 ml) at -70° C. under nitrogen atmosphere. To this solution was added dropwise at -70° C. a reaction mixture, which had been prepared by stirring a solution of 4-acetyl-1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridine (3.268 g), triethylamine (1.94 ml) and trimethylsilyl trifluoromethanesulfonate (2.6 ml) in dichloromethane at -70° C. under nitrogen atmosphere. After the mixture was warmed to ambient temperature, the mixture was stirred for 2 hours. The reaction mixture was poured into a mixture of ethyl acetate (200 ml) and water (100 ml), and the solution was stirred for 30 minutes. The organic layer was separated, washed with brine (100 ml), dried over magnesium sulfate and concentrated to give an oil, which was chromatographed on silica gel (300 ml) eluting with a mixture of hexane and ethyl acetate (2:1-1:5, V/V) to give (3S,4R)-4-[2-(1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-2-oxoethyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine (4.65 g).

reactant | (3R,4R)-4-acetoxy-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine | 3.96 g | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | triethylamine | 2.03 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl trifluoromethanesulfonate | 3.5 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 4-acetyl-1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridine | 3.268 g | C(C)(=O)C=1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C15H17NO3
reactant | triethylamine | 1.94 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl trifluoromethanesulfonate | 2.6 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (3S,4R)-4-[2-(1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-2-oxoethyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine | 4.65 g | C(C1=CC=CC=C1)OC(=O)N1CCC(=CC1)C(C[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C26H38N2O5Si
